US07119102B2
3-Amino-6-{4-[2-hydroxy-3-(pyridin-4-yloxy)-propylamino]-piperidin-1-yl}-4-propyl-thieno[2,3-b]pyridine-2-carboxylic acid amide
To a sealed tube was added trifluoro-methanesulfonic acid 6-carbamoylmethylsulfanyl-5-cyano-4-propyl-pyridin-2-yl ester (66.7 mg, 0.174 mmol) in 4 mL of dry DMF, followed by the addition of 1-(piperidin-4-ylamino)-3-(pyridin-4-yloxy)-propan-2-ol trihydrochloride salt (69 mg, 0.191 mmol) and N-N-diisopropylethylamine (180 mg, 1.39 mmol). The reaction mixture was stirred at 70° C. for 2 h. DMF was removed in vacuo. The residue was dissolved in 5 mL of MeOH, followed by the addition of sodium methoxide, 0.5 M solution in MeOH (1.74 mL, 0.86 mmol). The reaction mixture was stirred at 70° C. for 2 h. The reaction mixture was concentrated in vacuo. The residue was loaded onto a flash chromatography column. The column was eluted with 0–5% 2M NH3 in MeOH/CH2Cl2. The product fractions were collected, concentrated and dried under high vacuum pump to afford 24 mg (28.5%) of the title compound as a light brown solid product. (TLC: Rf=0.4, 5% 2M NH3 in MeOH/CH2Cl2, UV). ES+ 485.29 m/z (MH+)

reactant | trifluoro-methanesulfonic acid 6-carbamoylmethylsulfanyl-5-cyano-4-propyl-pyridin-2-yl ester | 0.174 mmol, 66.7 mg | C(N)(=O)CSC1=C(C(=CC(=N1)OS(=O)(=O)C(F)(F)F)CCC)C#N | C12H12F3N3O4S2
reactant | 1-(piperidin-4-ylamino)-3-(pyridin-4-yloxy)-propan-2-ol trihydrochloride salt | 0.191 mmol, 69 mg | Cl.Cl.Cl.N1CCC(CC1)NCC(COC1=CC=NC=C1)O
reactant | sodium methoxide | C[O-].[Na+]
reactant | MeOH | 0.86 mmol, 1.74 mL | CO | CH4O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 3-Amino-6-{4-[2-hydroxy-3-(pyridin-4-yloxy)-propylamino]-piperidin-1-yl}-4-propyl-thieno[2,3-b]pyridine-2-carboxylic acid amide | 24 mg, 28.5% | NC1=C(SC2=NC(=CC(=C21)CCC)N2CCC(CC2)NCC(COC2=CC=NC=C2)O)C(=O)N | C24H32N6O3S
